US07659294B2
Step D: Trans-N-tert-butyloxycarbonyl-5-(4-cyanophenyl)-3-(2-propenyl)-2-pyrrolidinone
A solution of freshly prepared lithium diisopropylamide (2.80 mmol) in 10 mL of THF was added dropwise into a solution of N-tert-butyloxycarbonyl-5-(4-cyanophenyl)-2-pyrrolidinone (763 mg, 2.67 mmol) in 10 mL of THF at −78° C. After stirring for 1 hr at −78° C., allyl iodide (488 μL, 5.33 mmol) was added. The mixture was stirred at −78° C. for 1 hr, and then quenched with 5.0 mL of sat'd NH4Cl solution. The mixture was poured into a mixture of brine (20 mL) and CH2Cl2 (20 mL), and the aqueous layer was separated and extracted with CH2Cl2 (3×20 mL). Organic layers were combined, dried over MgSO4, and concentrated. Chromatography on a Biotage 40+M cartridge using 1:4 v/v EtOAc/hexanes as the eluant gave 745 mg (86%) of the title compound: 1H NMR δ 1.35 (s, 9H), 1.99-2.05 (m, 1H), 2.21-2.29 (m, 1H), 2.63-2.76 (m, 2H), 5.06-5.11 (m, 2H), 5.17-5.20 (m, 1H), 5.68-5.77 (m, 1H), 7.32 (d, J=8.2, 2H), 7.67 (d, J=8.4, 2H).

reactant | lithium diisopropylamide | 2.80 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-tert-butyloxycarbonyl-5-(4-cyanophenyl)-2-pyrrolidinone | 2.67 mmol, 763 mg | C(C)(C)(C)OC(=O)N1C(CCC1C1=CC=C(C=C1)C#N)=O | C16H18N2O3
reactant | allyl iodide | 5.33 mmol, 488 μL | C(C=C)I | C3H5I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Trans-N-tert-butyloxycarbonyl-5-(4-cyanophenyl)-3-(2-propenyl)-2-pyrrolidinone | 745 mg, 86% | C(C)(C)(C)OC(=O)N1C([C@H](C[C@@H]1C1=CC=C(C=C1)C#N)CC=C)=O | C19H22N2O3
